US04552876
1,5-Bis(4-hydroxyphenyl)penta 1,4-diene-3-one
A solution of 150 g (1.23 mole) of 4-hydroxybenzaldehyde and 30 g (0.52 mole) of acetone in 600 ml of absolute ethanol was cooled while passing in hydrogen chloride for 45 minutes. After two hours of stirring, ice water was added and the resulting dark solid was filtered off. It was crystallized from absolute ethanol to give 90 g of brown, crystalline product.

reactant | 4-hydroxybenzaldehyde | 1.23 mole, 150 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | acetone | 0.52 mole, 30 g | CC(=O)C | C3H6O
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | hydrogen chloride | Cl | ClH
product | 1,5-Bis(4-hydroxyphenyl)penta 1,4-diene-3-one | OC1=CC=C(C=C1)C=CC(C=CC1=CC=C(C=C1)O)=O | C17H14O3
